US07169925B2
Step F2: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid [Methyl-(toluene-4-sulfonyl)-amino]-methyl ester
Under N2 at 60° C. dissolve 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid potassium salt (2.0 g, 6.89mmol) in a mixture of anhydrous THF and DMF (60:10 mL Cool to −5° C. add piperidinomethyl polystyrene HL resin (NOVA #01-64-0212, 30 mg) and follow with a solution of N-chloromethyl-N-methyl-4-methylbenzenesulfonamide (1.9 g, 8.34 mmol) in anhydrous THF (10 mL) dropwise. After 30 min, add water (100 mL) and then extract with dichloromethane (3×50 mL). Combine organic layers, wash with NaHCO3 (sat), water, brine, dry with MgSO4 and then concentrate. Purify the residue on an ISCO RediSep 35-gram silicagel cartridge, eluting with 50% heptane/ethyl acetate, ethyl acetate and then 10% methanol/ethyl acetate. Combine product containing fractions and concentrate to a solid (1.1 g). Wash the solid with methanol/ether, and dry to give the title compound as a white solid (720 mg): TLC (silica gel, EtOAc/MeOH, 8:2), Rf=0.49, 1H NMR (DMSO-d6) δ 11.47 (1H, s), 8.32 (1H, s), 8.09 (2H, d, J=5.7 Hz), 7.63 (2H, d, J=8.3 Hz), 7.48 (1H, d, J=8.3 Hz), 7.34 (2H, m), 7.14 (3H, m), 6.52 (2H, d, J=6.0 Hz), 5.61 (2H, s), 2.83 (3H, s), 2.05 (3H, s).

reactant | 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid potassium salt | 6.89mmol, 2.0 g | [K+].N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)[O-]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | N-chloromethyl-N-methyl-4-methylbenzenesulfonamide | 8.34 mmol, 1.9 g | ClCN(S(=O)(=O)C1=CC=C(C=C1)C)C | C9H12ClNO2S
reactant | water | 100 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid [Methyl-(toluene-4-sulfonyl)-amino]-methyl ester | 720 mg | CN(S(=O)(=O)C1=CC=C(C=C1)C)COC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1 | C23H22N4O4S
